* \\wsl.localhost\Ubuntu-22.04\home\miqueasgamero\my_files\transresistance_amplifier\amplifier.asc
XU1 N004 N005 VCC VEE N001 TL081
R1 N001 N005 {R}
R2 N001 N004 {R}
R3 N005 0 {R}
RL N004 0 10k
R5 N004 N003 {R}
V1 N003 0 1
V2 VCC 0 12
V3 0 VEE 12
R6 N002 N008 {R}
R7 N002 N007 {R}
R8 N008 0 {R}
RLL N007 0 10k
R10 N007 N006 {R}
V4 N006 0 1
XU2 N007 N008 VCC 0 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.param R=10Meg
.tran 10m
.lib C:\Program Files\LTC\LTspiceXVII\lib\sub\TL081.sp
.lib UniversalOpAmp1.lib
.backanno
.end
